US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)pyridine-2-carboxamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and picolinoyl chloride in a similar manner as described above to give an off-white solid (64% yield). 1H-NMR (CDCl3): δ 8.96 (s, 1H), 8.52 (m, 1H), 8.37 (d, 1H), 8.21 (m, 1H), 7.86 (m, 1H), 7.61 (m, 1H), 7.43 (m, 1H), 7.22 (dd, 1H), 7.17 (d, 1H), 5.31 (m, 1H), 2.72 (m, 2H), 2.31 (m, 1H), 1.98 (m, 3H); MS m/z 370 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | picolinoyl chloride | N1=C(C=CC=C1)C(=O)Cl | C6H4ClNO
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)pyridine-2-carboxamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(=O)C1=NC=CC=C1 | C18H16BrN3O
